US08242116B2
3-Chloro-4,6-dimethylpyridazine
To a mixture of 3-chloro-6-methylpyridazine (0.2 g, 1.55 mmol), acetic acid (0.2 mL, 3.49 mmol), sulphuric acid (0.124 mL, 2.33 mmol) and silver nitrate (0.026 g, 0.16 mmol) in water (4.5 mL) was added dropwise a solution of ammonium persulfate in water (1.5 mL). The mixture was held at 75° C. for 30 minutes, allowed to cool to r.t. and poured onto ice. The mixture was basified to pH 9-10 with ammonium hydroxide and extracted with DCM (50 mL). The organic fraction was washed with aqueous sodium hydroxide (1.0N, 2×15 mL), dried (MgSO4), concentrated in vacuo and purified by preparative HPLC (Method 6). The product was dissolved in DCM (15 mL), washed with aqueous potassium carbonate solution (0.7M) and concentrated in vacuo to give the title compound (0.111 g, 50%) as a pink solid. δH (DMSO-d6) 7.62 (1H, s), 2.57-2.54 (3H, m), 2.33 (3H, s). LCMS (ES+) 142.97 (M+H)+, RT 1.93 minutes (Method 1).

reactant | 3-chloro-6-methylpyridazine | 1.55 mmol, 0.2 g | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | acetic acid | 3.49 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | 2.33 mmol, 0.124 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 4.5 mL | O | H2O
solvent | water | 1.5 mL | O | H2O
catalyst | silver nitrate | 0.16 mmol, 0.026 g | [N+](=O)([O-])[O-].[Ag+]
product | 3-Chloro-4,6-dimethylpyridazine | 0.111 g, 50% | ClC=1N=NC(=CC1C)C | C6H7ClN2
